US05026856
7-(5-amino-2-isoindolinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
177 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 113 mg of 5-aminoisoindoline, 213 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 63 mg of the target compound.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 177 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 5-aminoisoindoline | 113 mg | NC=1C=C2CNCC2=CC1 | C8H10N2
reactant | DBU | 213 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(5-amino-2-isoindolinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 63 mg | NC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C20H18FN3O3
